US04985419
A solution of 10-(1-diethylamino-2-propyl)-2-phenothiazinecarbothioamide acid fumarate, L series (0.56 g) and propylamine (1.4 cc) in absolute ethanol (10 cc) is saturated with hydrogen sulphide and heated for 16 hours to a temperature in the region of 100° C. After cooling, the mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual orange oil is purified by chromatography on a column (height: 25 cm; diameter: 1 cm) of silica gel (0.04-0.063 mm) with a slight excess pressure of nitrogen (40 kPa), eluting with a mixture (80:20 by volume) (150 cc) of ethyl acetate and cyclohexane and collecting 15-cc fractions. The combined fractions 4 to 7 are concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. 10-(1-Diethylamino-2-propyl)-N-propyl-2-phenothiazinecarbothioamide, L series (0.5 g) is thereby obtained in the form of a yellow oil. 0.25 g of this product is dissolved in isopropyl ether (25 cc) and a 0.3N solution (2.2 cc) of hydrochloric acid in isopropyl ether is added dropwise, with stirring and at a temperature in the region of 5° C. Stirring is maintained for 1 hour at a temperature in the region of 5° C. The precipitate is drained, washed with isopropyl ether (3×5 cc) and dried under reduced pressure (5 mm Hg; 4 kPa) at 40° C. 10-(1-Diethylamino-2-propyl)-N-propyl-2-phenothiazinecarbothioamide hydrochloride, L series (0.24 g) is thereby obtained in the form of a yellow solid, m.p. 95°-100 C. (melts forming a paste), the NMR characteristics of which are identical to those of the product described in Example 6.

reactant | 10-(1-diethylamino-2-propyl)-2-phenothiazinecarbothioamide | C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S)CC | C20H25N3S2
reactant | propylamine | 1.4 cc | C(CC)N | C3H9N
reactant | hydrogen sulphide | S | H2S
solvent | ethanol | 10 cc | C(C)O | C2H6O
product | 10-(1-Diethylamino-2-propyl)-N-propyl-2-phenothiazinecarbothioamide | C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC)=S)CC | C23H31N3S2
